US08067408B2
N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
N-[(6-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (0.034 g, 0.05 mmol), 1,1-dimethylethyl 1-piperazinecarboxylate (0.0112 g, 0.06 mmol), and acetic acid (0.0036 g, 0.06 mmol) were combined in 1,2-dichloroethane (2 mL), and the mixture stirred for thirty min. Sodium triacetoxyborohydride (0.0148 g, 0.07 mmol) was added and the mixture stirred overnight at room temperature. Some starting material still remained, so additional 1,1-dimethylethyl 1-piperazinecarboxylate (0.004 g, 0.02 mmol) and sodium triacetoxyborohydride (0.005 g, 0.024 mmol) were added and the mixture again stirred overnight at room temperature. Solvents were concentrated, and the residue taken up in EtOAc, washed with 1N NaOH, brine, dried over anhydrous Na2SO4, filtered, and concentrated to give the protected product. This was treated with 10% TFA in CH2Cl2 for 3 h. The product was purified using a Gilson HPLC with a TFA system. The purified compound was taken up in EtOAc, washed 3× with 2.5 N NaOH, 1× with brine, dried over anhydrous Na2SO4, filtered, and concentrated to afford the title compound as a white solid. LC-MS m/z 749.1 (M+H)+, 1.47 min (ret time); mp 127-130° C. Analytical HPLC shows 98.8% purity, (ret time 10.129 min).

reactant | N-[(6-Chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.05 mmol, 0.034 g | ClC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C38H39ClN6O4
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 0.06 mmol, 0.0112 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | acetic acid | 0.06 mmol, 0.0036 g | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.07 mmol, 0.0148 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 0.02 mmol, 0.004 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium triacetoxyborohydride | 0.024 mmol, 0.005 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | ClC1=CC=C(C=C1C1=CC(=CC=C1)CN1CCNCC1)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C42H49ClN8O3
